US08067420B2
A mixture of 3-(4-chlorophenethoxy)pyrazin-2(1H)-one (25 mg, 0.100 mmol), K3PO4. (63.5 mg, 0.299 mmol), copper (1) iodide (18.99 mg, 0.100 mmol), 1-(4-bromophenoxy)-2-methylpropan-2-ol and N,N′-dimethylethylenediamine (0.032 mL, 0.299 mmol) in dioxane (1.0 mL) was stirred at 110° C. for 60 min. After removal of the precipitate by filtration, the filtrate was concentrated. The crude product was purified by silica gel chromatography employing a solvent gradient (CH2Cl2 to 10% MeOH/CH2Cl2) to elute 3-(4-chlorophenethoxy)-1-(4-(2-hydroxy-2-methylpropoxy)phenyl)pyrazin-2(1H)-one (31.82 mg, 0.073 mmol, 73.1% yield) as white solid. 1H NMR (500 MHz, chloroform-d) δ ppm 7.32 (2H, d), 7.23-7.29 (4 H, m), 7.02 (2H, d), 6.84 (2H, s), 4.51 (2H, t, J=7.29 Hz), 3.83 (2H, s), 3.13 (2H, t, J=7.15 Hz), 1.36 (6H, s).

reactant | 3-(4-chlorophenethoxy)pyrazin-2(1H)-one | 0.100 mmol, 25 mg | ClC1=CC=C(CCOC=2C(NC=CN2)=O)C=C1 | C12H11ClN2O2
reactant | K3PO4 | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1-(4-bromophenoxy)-2-methylpropan-2-ol | BrC1=CC=C(OCC(C)(O)C)C=C1 | C10H13BrO2
reactant | N,N′-dimethylethylenediamine | 0.299 mmol, 0.032 mL | CNCCNC | C4H12N2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | copper (1) iodide | 0.100 mmol, 18.99 mg | [Cu]I
product | 3-(4-chlorophenethoxy)-1-(4-(2-hydroxy-2-methylpropoxy)phenyl)pyrazin-2(1H)-one | 0.073 mmol, 31.82 mg, 73.1% yield | ClC1=CC=C(CCOC=2C(N(C=CN2)C2=CC=C(C=C2)OCC(C)(C)O)=O)C=C1 | C22H23ClN2O4
